US08138345B2
Preparation of 3-({3-[4-(Biphenyl-2-ylcarbamoyloxy)piperidin-1-yl]propionyl}methylamino)benzoic Acid Methyl Ester
A stirred solution of 3-(acryloylmethylamino)benzoic acid methyl ester (estimated ˜56 mmol) and biphenyl-2-ylcarbamic acid piperidin-4-yl ester (16.6 g, 56.0 mmol) in EtOH (20.0 mL) was heated at 90° C. overnight. The reaction mixture was concentrated under reduced pressure and the resulting residue was purified by silica gel flash chromatography (0-10% MeOH in DCM) to give the title compound (13.0 g, 45% yield) as an off-white solid.

reactant | 3-(acryloylmethylamino)benzoic acid methyl ester | ˜56 mmol | COC(C1=CC(=CC=C1)NCC(C=C)=O)=O | C12H13NO3
reactant | biphenyl-2-ylcarbamic acid piperidin-4-yl ester | 56.0 mmol, 16.6 g | N1CCC(CC1)OC(NC1=C(C=CC=C1)C1=CC=CC=C1)=O | C18H20N2O2
solvent | EtOH | 20.0 mL | CCO | C2H6O
product | 3-({3-[4-(Biphenyl-2-ylcarbamoyloxy)piperidin-1-yl]propionyl}methylamino)benzoic Acid Methyl Ester | 13.0 g, 45% yield | COC(C1=CC(=CC=C1)NCC(CCN1CCC(CC1)OC(NC1=C(C=CC=C1)C1=CC=CC=C1)=O)=O)=O | C30H33N3O5
